US07217724B2
tert-Butyl [2-(4-hydroxy-1H-indol-1-yl)ethyl][(2R)-2-hydroxy-2-pyridin-3-ylethyl]carbamate
To a solution of tert-butyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)ethyl][(2R)-2-hydroxy-2-pyridin-3-ylethyl]carbamate (316 mg, 0.618 mmol) in tetrahydrofuran (5 mL) is added a 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran (927 μL, 1.5 equivalent), and the mixture is stirred at room temperature for 3 hours. Further, to the mixture is added a 1.0 M solution of tetrabutyl-ammonium fluoride in tetrahydrofuran (927 μL, 1.5 equivalent), and the mixture is stirred for 15 hours. The reaction mixture is concentrated under reduced pressure, and the obtained brown residue is purified by silica gel column (ammonia-chloroform:methanol=100:1→50:1→20:1) to give the title compound as oil (239 mg, yield: 97%).

reactant | tert-butyl [2-(4-{[tert-butyl(dimethyl)silyl]oxy}-1H-indol-1-yl)ethyl][(2R)-2-hydroxy-2-pyridin-3-ylethyl]carbamate | 0.618 mmol, 316 mg | [Si](C)(C)(C(C)(C)C)OC1=C2C=CN(C2=CC=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C=1C=NC=CC1)O | C28H41N3O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 927 μL, 1.5 equivalent | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 927 μL, 1.5 equivalent | O1CCCC1 | C4H8O
product | tert-Butyl [2-(4-hydroxy-1H-indol-1-yl)ethyl][(2R)-2-hydroxy-2-pyridin-3-ylethyl]carbamate | 239 mg, yield: 97% | OC1=C2C=CN(C2=CC=C1)CCN(C(OC(C)(C)C)=O)C[C@@H](C=1C=NC=CC1)O | C22H27N3O4
